* File: nand3.pex.sp.pex
* Created: Tue Apr 15 16:14:37 2025
* Program "Calibre xRC"
* Version "v2024.4_12.9"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NAND3%OUT 1 3 8 12 16 17 21 25 31 33 39 43 44 45
c80 44 0 1.92439e-20
c81 33 0 3.13101e-20
c82 31 0 6.41074e-20
c83 21 0 1.69671e-19
c84 8 0 0.00480106f
r85 45 49 0.186663
r86 39 41 0.388606
r87 37 39 0.385691
r88 35 36 0.337116
r89 34 44 0.0371092
r90 34 35 0.0393476
r91 33 37 0.0489649
r92 33 36 0.0393476
r93 31 49 1.7
r94 29 44 0.00964403
r95 29 31 0.260366
r96 27 28 0.164334
r97 26 43 0.0371092
r98 26 27 0.278825
r99 25 44 0.0371092
r100 25 28 0.396378
r101 21 23 0.388606
r102 19 43 0.00964403
r103 19 21 0.389577
r104 17 18 0.155442
r105 16 43 0.0371092
r106 16 18 0.142346
r107 14 15 0.347185
r108 12 14 0.62857
r109 10 17 0.0489649
r110 10 15 0.149613
r111 8 12 10
r112 3 41 15
r113 3 39 10
r114 1 23 15
r115 1 21 10
.ends

.subckt PM_NAND3%GND! 2 11 13 14 19
c33 19 0 0.0266292f
c34 11 0 0.00165639f
c35 2 0 0.00243494f
r36 17 22 0.0294232
r37 17 19 1.12113
r38 14 22 0.0208426
r39 13 14 0.966061
r40 11 19 10
r41 2 22 30
.ends

.subckt PM_NAND3%VDD! 2 10 11 17 20 24 31 37
c41 31 0 2.49314e-19
c42 20 0 0.0248015f
r43 31 34 0.388606
r44 29 37 0.0166039
r45 29 34 1.42716
r46 25 27 0.331287
r47 24 37 0.0293518
r48 20 23 0.388606
r49 18 25 0.049152
r50 18 23 1.42716
r51 17 24 0.356546
r52 17 27 0.540162
r53 11 34 15
r54 11 31 10
r55 10 23 15
r56 10 20 10
r57 2 27 30
.ends

.subckt PM_NAND3%INA 1 2 6 14 15 18 23
c33 23 0 1.26778e-19
c34 18 0 3.45393e-20
c35 14 0 2.69466e-19
c36 2 0 9.3224e-20
r37 23 27 0.186663
r38 18 27 1.7
r39 18 21 0.00502177
r40 14 21 25
r41 14 16 7.64794
r42 14 15 7.71907
r43 6 16 33.978
r44 4 15 39.7386
r45 2 6 46.5732
r46 1 4 27.3386
.ends

.subckt PM_NAND3%INB 1 2 6 14 15 18 23
c35 23 0 1.29502e-19
c36 18 0 3.45393e-20
c37 14 0 3.87621e-19
c38 6 0 1.29728e-19
c39 2 0 7.64471e-20
r40 23 27 0.186663
r41 18 27 1.7
r42 18 21 0.00485757
r43 14 21 25
r44 14 16 7.63718
r45 14 15 7.71649
r46 6 16 33.978
r47 4 15 39.7386
r48 2 6 46.5732
r49 1 4 27.3386
.ends

.subckt PM_NAND3%INC 1 2 6 14 15 18 23
c34 18 0 1.09955e-19
c35 14 0 3.26293e-19
c36 6 0 1.19586e-19
r37 23 27 0.186663
r38 18 27 1.7
r39 18 21 0.00485757
r40 14 21 25
r41 14 16 7.63593
r42 14 15 7.71425
r43 6 16 33.978
r44 4 15 39.7386
r45 2 6 46.5732
r46 1 4 27.3386
.ends

